US07700605B2
A solution of [3′-(2-cyano-pyrimidin-4-yloxy)-biphenyl-4-ylmethyl]-carbamic acid tert-butyl ester (10 mg) in formic acid (0.154 ml) is stirred at rt for 1 h. This solution is evaporated under reduced pressure. The remaining oil is treated with diethyl ether to obtain crystals of 4-(4′-aminomethyl-biphenyl-3-yloxy)-pyrimidine-2-carbonitrile as salt with formic acid.

reactant | [3′-(2-cyano-pyrimidin-4-yloxy)-biphenyl-4-ylmethyl]-carbamic acid tert-butyl ester | 10 mg | C(C)(C)(C)OC(NCC1=CC=C(C=C1)C1=CC(=CC=C1)OC1=NC(=NC=C1)C#N)=O | C23H22N4O3
solvent | formic acid | 0.154 ml | C(=O)O | CH2O2
product | 4-(4′-aminomethyl-biphenyl-3-yloxy)-pyrimidine-2-carbonitrile | NCC1=CC=C(C=C1)C1=CC(=CC=C1)OC1=NC(=NC=C1)C#N | C18H14N4O
